US09212171B2
Step 1: 2-Chloro-5-(4-fluoro-phenylethynyl)-pyrimidine
A solution of 2-chloro-5-iodopyrimidine (600 mg, 2.5 mmol), 1-ethynyl-4-fluorobenzene (330 mg, 2.75 mmol), triethylamine (556 mg, 761 μl, 5.49 mmol), and bis(triphenyl-phosphine)palladium (II) chloride (175 mg, 250 μmol) in 7 ml of THF was purged with argon. Then copper (I) iodide (23.8 mg, 125 μmol) was added and the reaction was heated for 2 h at room temperature. The dark solution was filtered and the solids were washed with THF. The residue was taken up in ethyl acetate, adsorbed onto 3 g of silicagel which was loaded onto a 50 g prepacked flash chromatography column. After elution with a 0% to 20% ethyl acetate in heptane gradient, the fractions containing the desired product were collected to yield 505 mg (87%) of the title compound as an crystalline light yellow solid, MS: m/e=233.1, 235.1 (M+H+).

reactant | 2-chloro-5-iodopyrimidine | 2.5 mmol, 600 mg | ClC1=NC=C(C=N1)I | C4H2ClIN2
reactant | 1-ethynyl-4-fluorobenzene | 2.75 mmol, 330 mg | C(#C)C1=CC=C(C=C1)F | C8H5F
reactant | triethylamine | 5.49 mmol, 761 μl, 556 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 7 ml | C1CCOC1 | C4H8O
catalyst | bis(triphenyl-phosphine)palladium (II) chloride | 250 μmol, 175 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 125 μmol, 23.8 mg | [Cu]I
product | 2-Chloro-5-(4-fluoro-phenylethynyl)-pyrimidine | 505 mg, 87% | ClC1=NC=C(C=N1)C#CC1=CC=C(C=C1)F | C12H6ClFN2
